US08461160B2
Starting from (S)-3-amino-3-(2-fluoro-5-nitro-phenyl)-2,2-dimethyl-butyric acid methyl ester and tert-butyl [(methylamino)carbonothioyl]carbamate (1.8 mmole), the product [(S)-4-(2-fluoro-5-nitro-phenyl)-1,4,5,5-tetramethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester (31 mg) was obtained as pale yellow oil. MS (ESI): m/z=407.3 [M−H]−. A second fraction contained [(R)-4-(2-methoxy-5-nitro-phenyl)-1,4,5,5-tetramethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester (270 mg) as a white solid. MS (ESI): m/z=419.3 [ M−H]−.

reactant | (S)-3-amino-3-(2-fluoro-5-nitro-phenyl)-2,2-dimethyl-butyric acid methyl ester | COC(C([C@@](C)(C1=C(C=CC(=C1)[N+](=O)[O-])F)N)(C)C)=O | C13H17FN2O4
reactant | tert-butyl [(methylamino)carbonothioyl]carbamate | 1.8 mmole | CNC(=S)NC(OC(C)(C)C)=O | C7H14N2O2S
product | [(S)-4-(2-fluoro-5-nitro-phenyl)-1,4,5,5-tetramethyl-6-oxo-1,4,5,6-tetrahydro-pyrimidin-2-yl]-carbamic acid tert-butyl ester | 31 mg | C(C)(C)(C)OC(NC=1N(C(C([C@@](N1)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F)(C)C)=O)C)=O | C19H25FN4O5
